US08026257B2
7-Bromo-5-methoxy-1H-indazole.
To a suspension of 2-bromo-4-methoxy-6-methylaniline hydrobromide (18.5 g, 62.3 mmol) in hydrochloric acid (8 M, 56 mL, 448 mmol) at 0° C. was added a solution of sodium nitrite (4.51 g, 65.4 mmol) in water (ca. 14 mL) drop wise. After 10 min, the resulting solution was neutralized (pH 4-5) by addition of solid sodium acetate. The resulting solution was added to a solution of 2-methyl-2-propanethiol (7.02 mL, 62.3 mmol) in ethanol (140 mL) at 0° C. The resulting mixture was stirred at 0° C. for 30 min. The resulting mixture was poured onto ice and the resulting mixture was extracted into diethyl ether (2×). The ethereal was washed with water, then brine, dried over magnesium sulfate, and concentrated. The resulting residue was dissolved in dimethylsulfoxide (35 mL) and transferred to a solution of potassium tert-butoxide (55.9 g, 498 mmol) in dimethylsulfoxide (350 mL) in a cool water bath (ca. 10° C.) via canula. The bath was removed and stirring continued for 30 min. The reaction mixture was poured onto ice/concentrated hydrochloric acid. The resulting mixture was extracted with dichloromethane (2×), washed with water (3×), then brine, dried over magnesium sulfate and concentrated. Preparative HPLC gave 10.1 g (86%) as a tan solid. 1H-NMR (CDCl3, 300 MHz) δ 8.05 (s, 1H), 7.24 (m, 1H), 7.04 (m, 1H), 3.82 (s, 3H); Mass spec.: 226.95 (MH)+.

reactant | 2-bromo-4-methoxy-6-methylaniline hydrobromide | 62.3 mmol, 18.5 g | Br.BrC1=C(N)C(=CC(=C1)OC)C
reactant | hydrochloric acid | 448 mmol, 8 M, 56 mL | Cl | ClH
reactant | sodium nitrite | 65.4 mmol, 4.51 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 2-methyl-2-propanethiol | 62.3 mmol, 7.02 mL | CC(C)(C)S | C4H10S
reactant | potassium tert-butoxide | 498 mmol, 55.9 g | CC(C)([O-])C.[K+]
solvent | water | ca. 14 mL | O | H2O
solvent | ethanol | 140 mL | C(C)O | C2H6O
solvent | dimethylsulfoxide | 350 mL | CS(=O)C | C2H6OS
product | 7-Bromo-5-methoxy-1H-indazole | BrC=1C=C(C=C2C=NNC12)OC | C8H7BrN2O
